US06624159B2
N-(4-Chlorobenzyl)-8-(3-hydroxyprop-1-ynyl)-2,2-dimethyl-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide [C.6, X=chloro, Z=CH2OH]
4-Chlorobenzylamine (110 μL) and sodium methoxide (25 mg) are added to a solution of ethyl 8-(3-hydroxyprop-1-ynyl)-2,2-dimethyl-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxylate (Preparation 14, 153 mg) in methanol (12 mL). The reaction is warmed to 50° C. for 48 hours. The reaction mixture is cooled in a freezer and the resulting white precipitate is filtered and washed with cold methanol, hexane, and ether to give 150 mg of the title compound as white crystals. Physical characteristics: M.p. 228° C. (dec); 1H NMR (DMSO-d6) δ10.43, 8.98, 7.90, 7.66, 7.40, 5.39, 4.54, 4.34, 3.44, 1.66; IR (diffuse reflectance) 2226, 1907, 1646, 1618, 1568, 1538, 1510, 1493, 1434, 1318, 1307, 1223, 1033, 1012, 808 cm−1; MS (EI) m/z 420 (M+); HRMS (FAB) 421.1332 (C24H21ClN2O3+H).

reactant | 4-Chlorobenzylamine | 110 μL | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | sodium methoxide | 25 mg | C[O-].[Na+]
reactant | ethyl 8-(3-hydroxyprop-1-ynyl)-2,2-dimethyl-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxylate | 153 mg | OCC#CC=1C=C2C(C(=CN3C2=C(C1)CC3(C)C)C(=O)OCC)=O | C19H19NO4
solvent | methanol | 12 mL | CO | CH4O
product | N-(4-Chlorobenzyl)-8-(3-hydroxyprop-1-ynyl)-2,2-dimethyl-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide | 150 mg | ClC1=CC=C(CNC(=O)C2=CN3C4=C(C=C(C=C4C2=O)C#CCO)CC3(C)C)C=C1 | C24H21ClN2O3
